US04514416
To 20 ml of concentrated sulfuric acid, was added 7.6 g of 4-amidinophenol hydrochloride. When the evolution of hydrogen chloride gas had ceased, the solution was cooled in an ice-salt bath and 3.0 ml of nitric acid was slowly added to the solution while being stirred. The mixture was then stirred at room temperature for 20 to 30 minutes. The reaction mixture, orange in color, was diluted by pouring into a large volume of ice water. The diluted solution was added in small portions to a saturated aqueous sodium hydrogencarbonate solution to precipitate orange needle crystals. The crystals were collected by filtration and dried to obtain 7.6 g of 4-amidino-2-nitrophenol.

reactant | 4-amidinophenol hydrochloride | 7.6 g | Cl.C(N)(=N)C1=CC=C(C=C1)O
reactant | hydrogen chloride | Cl | ClH
reactant | nitric acid | 3.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 4-amidino-2-nitrophenol | 7.6 g | C(N)(=N)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H7N3O3
